US04518415
Finely powdered aluminium chloride (29.35 g), 2,2-dimethylsuccinic anhydride (13.9 g) and chlorobenzene (45 ml) were mixed, then stirred and heated on a boiling-water bath for 1.5 hours. The resulting mixture was cooled to room temperature and then poured onto a mixture of ice and water containing a little hydrochloric acid. The resulting mixture was extracted with ether. The ethereal layer was shaken with 2N sodium hydroxide and the resulting aqueous layer washed with ether, acidified with concentrated hydrochloric acid and then extracted with ether. The ethereal layer was washed with water and brine, and finally dried over magnesium sulphate. Removal of the solvent in vacuo gave 13.9 g of 3-(4-chlorobenzoyl)-2,2-dimethylpropionic acid. I.R. (Nujol Mull): 1680 cm-1 (s), 1590 cm-1 (s).

reactant | aluminium chloride | 29.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,2-dimethylsuccinic anhydride | 13.9 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
reactant | chlorobenzene | 45 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-(4-chlorobenzoyl)-2,2-dimethylpropionic acid | 13.9 g | ClC1=CC=C(C(=O)CC(C(=O)O)(C)C)C=C1 | C12H13ClO3
